US06087380
a) Iminoethyl methoxyacetate hydrochloride
A solution of 35.5 g (0.50 mol) of methoxyacetonitrile in 29 ml (23 g, 0.50 mol) of ethanol and 30 ml of absolute diethylether was cooled to 0° C. and over 1 hour 22.5 g (0.62 mol) of hydrogen chloride gas was introduced, whilst towards the end of the introduction of gas the reaction product crystallised out. To complete the precipitation 130 ml of diethylether were added and the colourless needles were filtered off. Yield: 66.4 g (86% of theory), Melting point: 117-118° C.

reactant | methoxyacetonitrile | 0.50 mol, 35.5 g | COCC#N | C3H5NO
reactant | ethanol | 0.50 mol, 29 ml, 23 g | C(C)O | C2H6O
reactant | hydrogen chloride | 0.62 mol, 22.5 g | Cl | ClH
reactant | diethylether | 30 ml | C(C)OCC | C4H10O
product | Iminoethyl methoxyacetate hydrochloride | Cl.COCC(=O)OCC=N | InChI=1S/C5H9NO3.ClH/c1-8-4-5(7)9-3-2-6;/h2,6H,3-4H2,1H3;1H
